US04280934
191 g of trimethylphosphite were added dropwise under stirring to 188 g of allyl chloroacetate (21/2 h) preliminarly heated to 118°. The reaction mixture was kept at this temperature for 4h, whereupon it was subjected to a distillation to give 205 g of allyl dimethylphosphono-acetate, b.p. 118°/0.1 Torr.

reactant | trimethylphosphite | 191 g | COP(OC)OC | C3H9O3P
reactant | allyl chloroacetate | 188 g | ClCC(=O)OCC=C | C5H7ClO2
product | allyl dimethylphosphono-acetate | 205 g | COP(=O)(OC)CC(=O)OCC=C | C7H13O5P
